US05712267
42(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-(3-dimethylamino-1,2,5,6-tetrahydropyrazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 1(i), but using 446 mg of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 178 mg of N,N'-carbonyldiimidazole, 289 mg of 3-dimethylamino-1,2,5,6-tetrahydropyrazine bis(trifluoroacetate) and 289 μl of diisopropylethylamine, 460 mg of the title compound were obtained, as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 446 mg | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 3-dimethylamino-1,2,5,6-tetrahydropyrazine bis(trifluoroacetate) | 289 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.CN(C=1CNCCN1)C
reactant | diisopropylethylamine | 289 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-(3-dimethylamino-1,2,5,6-tetrahydropyrazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 460 mg | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CC(=NCC2)N(C)C)C=C1 | C27H33N5O6S
